US08114868B2
Step 1: 3-[(S)-1-(4-Bromo-2-methyl-phenyl)-ethyl]-(R)-6-(2-methyl-allyl)-6-phenyl-[1,3]oxazinan-2-one
Lithium hexamethyldisilazide (1 mol/L in tetrahydrofuran, 18.7 mL) was added dropwise (at such a rate that the solution temperature maintains below 25° C.) to a solution of 1-chloro-5-methyl-3-phenyl-hex-5-en-3-ol (3.82 g) and (S)-4-bromo-1-(1-isocyanato-ethyl)-2-methyl-benzene (4.49 g) in tetrahydrofuran (140 mL) chilled in an ice bath. The solution was stirred in the cooling bath for 30 min and at room temperature for another 60 min. Then acetic acid (1.9 mL) in water (40 mL) was slowly added to the reaction mixture. The resulting mixture was concentrated under reduced pressure and the residue was taken up in tert-butyl methyl ether. The resulting solution was washed with water, dried (MgSO4), and concentrated. The residue was submitted to chromatography on silica gel (cyclohexane/ethyl acetate 90:10→40:60) to afford the title compound as a colorless solid. Besides the title compound a diastereomer thereof, 3-[(S)-1-(4-bromo-2-methyl-phenyl)-ethyl]-6-(S)-(2-methyl-allyl)-6-phenyl-[1,3]oxazinan-2-one, was isolated as an oil {1.55 g, Mass spectrum (ESI+): m/z=428/430 (Br) [M+H]+}. Yield: 1.34 g (18% of theory); Mass spectrum (ESI+): m/z=428/430 (Br) [M+H]+; 1H NMR (400 MHz, DMSO-d6) 1.40 (d, J=6.8 Hz, 3H), 1.53 (s, 3H), 1.71 (s, 3H), 1.81-190 (m, 1H), 1.98-2.08 (m, 1H), 2.43-ca. 2.51 (m, 3H), 2.86-2.94 (m, 1H), 4.58 (hardly resolved m, 1H), 4.77 (hardly resolved m, 1H), 5.30 (q, J=6.8 Hz, 1H), 7.15-7.19 (m, 2H), 7.24-7.35 (m, 6H). The assignment of the stereogenic centers of the title compound is based on the comparison of the 1H NMR data with the data of the known analog 3-[(S)-1-(4-bromo-phenyl)-ethyl]-(R)-6-(2-methyl-allyl)-6-phenyl-[1,3]oxazinan-2-one.

reactant | Lithium hexamethyldisilazide | 1 mol/L, 18.7 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | 1-chloro-5-methyl-3-phenyl-hex-5-en-3-ol | 3.82 g | ClCCC(CC(=C)C)(O)C1=CC=CC=C1 | C13H17ClO
reactant | (S)-4-bromo-1-(1-isocyanato-ethyl)-2-methyl-benzene | 4.49 g | BrC1=CC(=C(C=C1)[C@H](C)N=C=O)C | C10H10BrNO
reactant | acetic acid | 1.9 mL | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 140 mL | O1CCCC1 | C4H8O
solvent | water | 40 mL | O | H2O
product | 3-[(S)-1-(4-Bromo-2-methyl-phenyl)-ethyl]-(R)-6-(2-methyl-allyl)-6-phenyl-[1,3]oxazinan-2-one | BrC1=CC(=C(C=C1)[C@H](C)N1C(O[C@](CC1)(C1=CC=CC=C1)CC(=C)C)=O)C | C23H26BrNO2
